US04343811
5-Benzyloxy-3-(3-chloro-phenyl)-2-methyl-1H-indole
An amount of 11.7 g (47 m mole) of 4-benzyloxyphenylhydrazine-hydrochloride and 6.39 g (38 m mole) of (3-chlorophenyl)-acetone was dissolved in 35 ml of absolute ethanol, and after addition of 2.7 ml of concentrated sulfuric acid the mixture was refluxed for five hours. After the ethanol was distilled off, the residue was mixed with water and extracted with chloroform. The extracts were dried over sodium sulfate and evaporated. The evaporation residue was purified by chromatography on silicagel by using toluene as solvent.

reactant | 4-benzyloxyphenylhydrazine-hydrochloride | 11.7 g | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)NN
reactant | (3-chlorophenyl)-acetone | 6.39 g | ClC=1C=C(C=CC1)CC(C)=O | C9H9ClO
reactant | sulfuric acid | 2.7 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 5-Benzyloxy-3-(3-chloro-phenyl)-2-methyl-1H-indole | C(C1=CC=CC=C1)OC=1C=C2C(=C(NC2=CC1)C)C1=CC(=CC=C1)Cl | C22H18ClNO
